US05294612
3-cyano-4-cyano-5-amino-1H-pyrazole-1-carboxamide (15.6 g, 0.089 mol) was added in small protions to boiling water (150 ml). Upon completion of the addition, the reaction mixture was stirred at reflux for 5 minutes, cooled and a solid was collected by filtration. The solid was washed with water and air dried to afford 10.4 g (88%) of 3-cyano-5-amino-1H-pyrazole-4-carbonitrile, m.p. 260° C. (dec.).

reactant | 3-cyano-4-cyano-5-amino-1H-pyrazole-1-carboxamide | 0.089 mol, 15.6 g | C(#N)C1=NN(C(=C1C#N)N)C(=O)N | C6H4N6O
solvent | water | 150 ml | O | H2O
product | 3-cyano-5-amino-1H-pyrazole-4-carbonitrile | 10.4 g, 88% | C(#N)C1=NNC(=C1C#N)N | C5H3N5
